US07652051B2
Synthesis of 6-{4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyrimidine-2,4-diamine
4-[(2,6-diaminopyrimidin-4-yl)oxy]benzohydrazide (1.48 g, 5.68 mmol) and S-methyl N-[4-chloro-3-(trifluoromethyl)phenyl]isothiourea hydroiodide (2.33 g, 5.89 mmol) were suspended in 30 mL of anhydrous pyridine. The reaction mixture was refluxed for 18 hours under Ar atmosphere. The formed yellow solution was cooled down to ambient temperature and pyridine was removed in vacuo. The resulting yellow foamy solid was re-dissolved in 50 mL of 5:1 EtOAc/MeOH; ca. 15 g of silica gel was added and solvent was removed in vacuo. The impregnated silica gel was packed into ISCO column and the product was purified using ISCO system (80 g pre-packed column, 50 min run, 0% to 10% gradient of solvent B in solvent A [Solvent A—4 mL of MeOH, 4 mL of Et3N in 4 L of CH2Cl2; Solvent B—4 mL of Et3N in 4 L of MeOH]). Solvent was removed in vacuo to give the title product as a white solid (1.33 g). Yield 50.5%.

reactant | 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzohydrazide | 5.68 mmol, 1.48 g | NC1=NC(=CC(=N1)OC1=CC=C(C(=O)NN)C=C1)N | C11H12N6O2
reactant | S-methyl N-[4-chloro-3-(trifluoromethyl)phenyl]isothiourea hydroiodide | 5.89 mmol, 2.33 g | I.CSC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=N
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 6-{4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyrimidine-2,4-diamine | 1.33 g, Yield 50.5% | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C1=CC=C(OC2=CC(=NC(=N2)N)N)C=C1)C(F)(F)F | C19H14ClF3N8O
